US07777047B2
N-methyl-N-(2-{5-[(3-oxotetrahydro[1,3]oxazolo[3,4-a]pyrazin-7(1H)-yl)methyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide
A mixture of N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (150 mg), triethylamine (150 μL), hexahydro[1,3]oxazolo[3,4-a]pyrazin-3-one hydrochloride (125 mg) and N,N-dimethylformamide (2 ml) was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (103 mg, yield 56%) as a colorless amorphous form from a fraction eluted with ethyl acetate. MS 530 (M+1).

reactant | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 150 mg | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H14ClN3O2S3
reactant | triethylamine | 150 μL | C(C)N(CC)CC | C6H15N
reactant | hexahydro[1,3]oxazolo[3,4-a]pyrazin-3-one hydrochloride | 125 mg | Cl.C1OC(N2C1CNCC2)=O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-methyl-N-(2-{5-[(3-oxotetrahydro[1,3]oxazolo[3,4-a]pyrazin-7(1H)-yl)methyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide | 103 mg, yield 56% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CC2N(CC1)C(OC2)=O | C23H23N5O4S3
